US07435837B2
Treatment of (±)-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (3.13 g, 7.85 mmol) with sodium azide (2.04 g, 31.42 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with sulfided platinum on carbon (0.21 g, 5 wt. %) generally according to the procedure described for Example 1 provided 1.81 g (83%) of (±)-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 244-246° C.; Anal. calcd. for C15H14FNOHCl: C, 64.4; H, 5.4; N, 5.01. Found: C, 63.98; H, 5.4; N, 4.89.

reactant | (±)-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 7.85 mmol, 3.13 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)F | C22H19FO4S
reactant | sodium azide | 31.42 mmol, 2.04 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)F | C15H12FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | sulfided platinum on carbon | 0.21 g | [Pt] | Pt
product | (±)-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.81 g, 83% | FC1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN | C15H14FNO
